************************************************************************
* auCdl Netlist:
* 
* Library Name:  _2stageamp_6
* Top Cell Name: _2stageamp
* View Name:     schematic
* Netlisted on:  Jan 08 09:57:50 2026
************************************************************************

.INCLUDE  /tools/PDK/ss28lpp_rf/Device/LNR28LPP_CDS_S00-V1.4.6.1/CDS/oa/cmos28lp/.il/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: 2satgeamp_6
* Cell Name:    _2stageamp
* View Name:    schematic
************************************************************************

.SUBCKT _2stageamp VBN VBP VDD VINN VINP VOUT VSS
*.PININFO VBN:B VBP:B VDD:B VINN:B VINP:B VOUT:B VSS:B
MN11 VBP VBP VBN VSS egnfet w=39.0000u l=0.15u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN9 VBN VBN VSS VSS egnfet w=26.0000u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN0 net6 net6 VSS VSS egnfet w=84.0000u l=0.15u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN1 VOUT1 net6 VSS VSS egnfet w=84.0000u l=0.15u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN33 VOUT VOUT1 VSS VSS egnfet w=70.0000u l=0.15u nf=5.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
RR0 net10 VOUT1 $SUB=VSS $[opppcres] r=0.926k w=1.1000u l=0.5000u pbar=1 s=1 bp=3 ncr=1
RR6 net10 VOUT1 $SUB=VSS $[opppcres] r=0.926k w=1.1000u l=0.5000u pbar=1 s=1 bp=3 ncr=1
CC0 VOUT net10 $[hdvncap] $SUB=VSS l=5.0000u w=10.1500u botlev=17 toplev=31
CC2 VOUT net10 $[hdvncap] $SUB=VSS l=5.0000u w=10.1500u botlev=17 toplev=31
MP2 net38 VBP VDD VDD egpfet w=65.0000u l=0.15u nf=5.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP7 VBP VBP VDD VDD egpfet w=26.0000u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 net6 VINN net38 VDD egpfet w=312.0000u l=0.15u nf=24.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 VOUT1 VINP net38 VDD egpfet w=312.0000u l=0.15u nf=24.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP14 VOUT VBP VDD VDD egpfet w=312.0000u l=0.15u nf=24.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
