************************************************************************
* auCdl Netlist:
* 
* Library Name:  Laygen_AMP
* Top Cell Name: opamp
* View Name:     schematic
* Netlisted on:  Sep 30 15:09:55 2025
************************************************************************

.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM


************************************************************************
* Library Name: Laygen_AMP
* Cell Name:    opamp
* View Name:    schematic
************************************************************************

.SUBCKT opamp VDD VINn VINp VOUT VSS
*.PININFO VDD:B VINn:B VINp:B VOUT:B VSS:B
MN1 net6 net1 VSS VSS nfet w=4.2000u l=0.0300u nf=6.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN5 VOUT net1 VSS VSS nfet w=5.6000u l=0.0300u nf=8.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN3 net2 VINp net6 VSS nfet w=4.2000u l=0.0300u nf=6.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 net5 VINn net6 VSS nfet w=4.2000u l=0.0300u nf=6.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN_Dummy VSS VSS VSS VSS nfet w=165.2000u l=0.0300u nf=236.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MN4 net1 net1 VSS VSS nfet w=2.8000u l=0.0300u nf=4.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 net5 net5 VDD VDD pfet w=2.1000u l=0.0300u nf=3.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP4 net1 net1 net3 VDD pfet w=3.5000u l=0.0300u nf=5.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 net2 net5 VDD VDD pfet w=2.1000u l=0.0300u nf=3.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP_Dummy VDD VDD VDD VDD pfet w=174.3000u l=0.0300u nf=249.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP3 net3 net3 VDD VDD pfet w=2.8000u l=0.0300u nf=4.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
MP5 VOUT net2 VDD VDD pfet w=0.7000u l=0.0300u nf=1.0000 pccrit=1 plorient=1 ngcon=1 p_la=0u ptwell=0
CC2 net2 net4 $[ncap] $SUB=VSS l=2.7000u w=2.6000u nf=9.0000 nrep=3.0000
RR1 VOUT net4 $SUB=VSS $[opppcres] r=3.039k w=1.5000u l=2.5000u pbar=1 s=4.0000 bp=3 ncr=1
.ENDS
