************************************************************************
* auCdl Netlist:
* 
* Library Name:  Laygen_AMP
* Top Cell Name: opamp
* View Name:     schematic
* Netlisted on:  Jul 18 11:50:37 2025
************************************************************************

.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM


************************************************************************
* Library Name: Laygen_AMP
* Cell Name:    opamp
* View Name:    schematic
************************************************************************

.SUBCKT opamp VDD VINn VINp VOUT VSS
*.PININFO VDD:B VINn:B VINp:B VOUT:B VSS:B
MN1 net6 net1 VSS VSS nfet w=8.0000u l=0.2900u nf=8.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN5 VOUT net1 VSS VSS nfet w=15.0000u l=0.2900u nf=15.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN3 net2 VINp net6 VSS nfet w=4.0000u l=0.2900u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 net5 VINn net6 VSS nfet w=4.0000u l=0.2900u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN_Dummy VSS VSS VSS VSS nfet w=28.0000u l=0.2900u nf=28.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN4 net1 net1 VSS VSS nfet w=9.0000u l=0.2900u nf=9.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 net5 net5 VDD VDD pfet w=10.0000u l=0.2900u nf=10.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP4 net1 net1 net3 VDD pfet w=6.0000u l=0.2900u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 net2 net5 VDD VDD pfet w=10.0000u l=0.2900u nf=10.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP_Dummy VDD VDD VDD VDD pfet w=19.0000u l=0.2900u nf=19.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP3 net3 net3 VDD VDD pfet w=3.0000u l=0.2900u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP5 VOUT net2 VDD VDD pfet w=19.0000u l=0.2900u nf=19.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
CC2 net2 net4 $[ncap] $SUB=VSS l=1.3000u w=1.3000u nf=1.0000 nrep=1.0000
RR1 VOUT net4 $SUB=VSS $[opppcres] r=3.039k w=0.5000u l=1.0000u pbar=1 s=2.0000 bp=3 ncr=1
.ENDS
